US08975282B2
Step 3) 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)picolinamide
To a solution of N-(4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (1.80 g, 5.57 mmol) in DMF (35 mL) was added potassium tert-butoxide (1.87 g, 16.7 mmol). The solution was stirred at rt for 20 minutes, followed by the addition of 4-chloropicolinamide (1.046 g, 6.68 mmol). The reaction was heated at 120° C. for 3 hours, then cocentrated to 2 mL in vacuo, and diluted with water (60 mL). The precipitate was obtained by filtration, washed with water (5 mL) and dried. The crude product was washed with DCM (20 mL) to give the title compound as a brown solid (1.8 g, 73%).

reactant | N-(4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 5.57 mmol, 1.80 g | OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H17N3O3
reactant | potassium tert-butoxide | 16.7 mmol, 1.87 g | CC(C)([O-])C.[K+]
reactant | 4-chloropicolinamide | 6.68 mmol, 1.046 g | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | water | 60 mL | O | H2O
product | 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)picolinamide | 1.8 g, 73% | CN1N(C(C(=C1C)C(=O)NC1=CC=C(OC2=CC(=NC=C2)C(=O)N)C=C1)=O)C1=CC=CC=C1 | C24H21N5O4
